US05344812
In a flask were placed 25.88 g (0.086 mole) of 1-methyl-3-(4-methoxyphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione and 200 mL of methylene chloride. To this flask was added dropwise 258 mL (0.258 mole) of a 1 molar solution of boron tribromide in methylene chloride. Upon completion of addition, this reaction mixture was allowed to stir at ambient temperature for approximately 64 hours after which it was poured over ice. This mixture was filtered to remove insoluble material, and the aqueous and organic layers of the filtrate were separated. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was evaporated under reduced pressure, leaving 1-methyl-3-(4-hydroxyphenyl)-6-trifluoromethyl-2,4(1H,3H)pyrimidinedione as a residue. The NMR spectrum was consistent with proposed structure.

reactant | 1-methyl-3-(4-methoxyphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 0.086 mole, 25.88 g | CN1C(N(C(C=C1C(F)(F)F)=O)C1=CC=C(C=C1)OC)=O | C13H11F3N2O3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-methyl-3-(4-hydroxyphenyl)-6-trifluoromethyl-2,4(1H,3H)pyrimidinedione | CN1C(N(C(C=C1C(F)(F)F)=O)C1=CC=C(C=C1)O)=O | C12H9F3N2O3
